US07361677B2
4-Benzyloxy-3-trifluoromethyl-benzoic acid (CAB03046)
Sodium hydride (60%, 1.80 g, 45 mmol) was added to a solution of 4-fluoro-3-trifluoromethyl benzoic acid (4.162 g, 20 mmol) and benzyl alcohol (3.25 g, 30 mmol) in DMSO (50 mL). The mixture was stirred overnight at room temperature, poured into water (50 mL) and acidified with concentrated hydrochloric acid. The white precipitate was filtered off, dissolved in ethyl acetate (ca. 50 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was recrystallised from ethyl acetate/hexane. Yield: 4.252 g (72%). 1H-NMR (400 MHz, CDCl3) δ=5.37 (s, 2H), 7.32-7.48 (m, 6H), 8.12 (d, J=2.0 Hz, 1H), 8.18 (dd, J=8.6, 2.0 Hz, 1H), 13.16 (br s, 1H, —COOH). LRMS (FAB+): 91.1 (100),297.1 (18, [M+H]+).

reactant | Sodium hydride | 45 mmol, 1.80 g | [H-].[Na+]
reactant | 4-fluoro-3-trifluoromethyl benzoic acid | 20 mmol, 4.162 g | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | benzyl alcohol | 30 mmol, 3.25 g | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 4-Benzyloxy-3-trifluoromethyl-benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C15H11F3O3
